US09447030B2
To a solution of tert-butyl 3-((((2-amino-5-(thiophen-2-yl)phenyl)carbamoyl)oxy)methyl)azetidine-1-carboxylate (0.12 g, 0.30 mmol) in dichloromethane (5 mL) was added TFA (1.5 mL) at 0° C. The reaction was then warmed to room temperature and stirred for 2 h. The solvents were then removed under reduced pressure. A saturated solution of sodium bicarbonate was added. The product was extracted with ethyl acetate, washed with water and brine. The combined organic layers were dried over sodium sulfate, filtered and concentrated under reduced pressure. The crude solid was washed with ether to obtain azetidin-3-ylmethyl (2-amino-5-(thiophen-2-yl)phenyl)carbamate (49.6 mg, 55% yield). ESI+ MS: m/z 304 ([M+H]+), 1H NMR (500 MHz, d6-DMSO): δ 8.78 (bs, 1H), 7.53 (bs, 1H), 7.34 (d, J=4.5 Hz, 1H), 7.22-7.16 (m, 2H), 7.04 (dd, J=5.5; 4.0 Hz, 1H), 6.76-6.70 (m, 1H), 5.18 (bs, 2H), 4.23 (d, J=6.0 Hz, 2H), 3.92 (t, J=8.5 Hz, 2H), 3.70-3.64 (m, 2H), 3.08-3.00 (m, 1H).

reactant | tert-butyl 3-((((2-amino-5-(thiophen-2-yl)phenyl)carbamoyl)oxy)methyl)azetidine-1-carboxylate | 0.30 mmol, 0.12 g | NC1=C(C=C(C=C1)C=1SC=CC1)NC(=O)OCC1CN(C1)C(=O)OC(C)(C)C | C20H25N3O4S
reactant | TFA | 1.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | azetidin-3-ylmethyl (2-amino-5-(thiophen-2-yl)phenyl)carbamate | 49.6 mg, 55% yield | NC1=C(C=C(C=C1)C=1SC=CC1)NC(OCC1CNC1)=O | C15H17N3O2S
